US07479502B2
Proceeding as in Reference 19, but substituting tert-butyl (3-bromo-benzyl)-carbamate (0.9 g, 3.2 mmol) and 4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (0.9 g, 3.5 mmol), gave tert-butyl (5′-cyano-2′-methoxybiphenyl-3-ylmethyl)carbamate (0.73 g, 68%) as white foam.

reactant | tert-butyl (3-bromo-benzyl)-carbamate | 3.2 mmol, 0.9 g | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16BrNO2
reactant | 4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 3.5 mmol, 0.9 g | COC1=C(C=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO3
product | tert-butyl (5′-cyano-2′-methoxybiphenyl-3-ylmethyl)carbamate | 0.73 g, 68% | C(#N)C=1C=CC(=C(C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O)OC | C20H22N2O3
